US07468383B2
Step 1: N-tert-butoxycarbonyl-L-asparagine [Commercially Available]
L-asparagine (15 g, 0.113 mol, 1 eq.) and sodium carbonate (12 g, 0.113 mol) were dissolved in water (225 ml) and 1,4-dioxane (225 ml) at r.t. To this solution, di-tert-butyl-dicarbonate (30 g, 0.137 mol, 1.2 eq.) was added and the mixture was stirred overnight. The solvent was evaporated under reduced pressure until 1,4-dioxane was distilled and the pH adjusted to 2 with HCl 37% to give a white solid that was filtered, washed with water and dried. Yield 91%. 24 g.

reactant | L-asparagine | 0.113 mol, 15 g, 1 eq. | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | sodium carbonate | 0.113 mol, 12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 225 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl-dicarbonate | 0.137 mol, 30 g, 1.2 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 225 ml | O | H2O
product | N-tert-butoxycarbonyl-L-asparagine | Yield 91% | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
